### PR TITLE
feat: add missing List foldl lemmas

### PR DESCRIPTION
**Pull request by kim-em**
This PR adds missing `List.foldl` lemmas for composing initial accumulators and reasoning about repeated `set` updates.

These lemmas are used downstream in `lean-zip`'s dynamic-tree and Huffman proofs.

### CODE REVIEW

File: src/Init/Data/List/Lemmas.lean [hunk 1]
```diff
@@ -3848,4 +3848,80 @@ theorem intercalate_cons_of_ne_nil {ys l : List α} {zs : List (List α)} (h : z
...
+      init + xs.foldl (fun acc x => acc + f x) 0 := by
+  induction xs generalizing init with
+  | nil => simp
+  | cons x xs ih =>
+    simp only [foldl_cons, Nat.zero_add]
+    rw [ih, ih (f x)]
+    simp [Nat.add_assoc]
+
+theorem foldl_count_init (b : Nat) (init : Nat) (xs : List Nat) :
+    xs.foldl (fun acc x => if (x == b) = true then acc + 1 else acc) init =
```
Comment (Rob23oba) [inline src/Init/Data/List/Lemmas.lean:3862]: Shouldn't this just rewrite to `init + xs.count b` or whatever?

File: src/Init/Data/List/Lemmas.lean [hunk 2]
```diff
@@ -3848,4 +3848,80 @@ theorem intercalate_cons_of_ne_nil {ys l : List α} {zs : List (List α)} (h : z
   match zs, h with
   | l'::zs, _ => by simp
 
+theorem foldl_add_init (f : Nat → Nat) (init : Nat) (xs : List Nat) :
+    xs.foldl (fun acc x => acc + f x) init =
+      init + xs.foldl (fun acc x => acc + f x) 0 := by
```
Comment (Rob23oba) [inline src/Init/Data/List/Lemmas.lean:3853]: Shouldn't this just rewrite to `init + (xs.map f).sum` or whatever? Also, nothing in the name suggests this is about `Nat` this could in theory be generalized to any `AddMonoid` (or any `Std.Associative (. + .)` with `Std.LawfulLeftIdentity (. + .) 0`).

File: src/Init/Data/List/Lemmas.lean [hunk 3]
```diff
@@ -3848,4 +3848,80 @@ theorem intercalate_cons_of_ne_nil {ys l : List α} {zs : List (List α)} (h : z
...
+  | nil => simp only [beq_iff_eq, foldl_nil, Nat.add_zero]
+  | cons x xs ih =>
+    simp only [foldl_cons, Nat.zero_add]
+    split
+    · rw [ih, ih 1]
+      simp [Nat.add_assoc]
+    · exact ih init
+
+theorem foldl_set_length (xs : List Nat) (f : Nat → α) (ys : List α) :
+    (xs.foldl (fun ys i => ys.set i (f i)) ys).length = ys.length := by
```
Comment (Rob23oba) [inline src/Init/Data/List/Lemmas.lean:3874]: Hmm, this is a very specific operation... I don't see why this should be in core, this feels like something that comes up very rarely.

**Comment by kim-em** [comment]
Closing — on reflection these foldl lemmas are too specific / better expressed as rewrites to existing forms (as noted in review). Thanks for the feedback.
